US07812047B2
c) rac-4-[2-(4-Chloro-phenyl)-ethyl]-4,5-dihydro-1H-imidazole or tautomer
To a solution of 4-(4-chlorophenyl)-1,2-butanediamine (0.084 mg, 0.42 mmol) in ethanol (8 ml) was added formamidine acetate (0.15 g, 1.45 mmol) and the mixture was stirred overnight at room temperature. The solvent was evaporated, water (5 ml) was added and the mixture was extracted 3 times with dichloromethane (10 ml). The combined organic layers were dried over magnesium sulfate and evaporated. The residue was purified by chromatography (column: Isolute® Flash-NH2 from Separtis; eluent:ethyl acetate/methanol=90:10) to yield an off-white amorphous solid (0.041 g, 47%); MS (ISP): 209.3 ((M+H)+).

reactant | 4-(4-chlorophenyl)-1,2-butanediamine | 0.42 mmol, 0.084 mg | ClC1=CC=C(C=C1)CCC(CN)N | C10H15ClN2
reactant | formamidine acetate | 1.45 mmol, 0.15 g | C(C)(=O)O.C(=N)N
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | rac-4-[2-(4-Chloro-phenyl)-ethyl]-4,5-dihydro-1H-imidazole | 0.041 g, 47% | ClC1=CC=C(C=C1)CCC1N=CNC1 | C11H13ClN2
